US07423061B2
Methyl 5-(4-methoxyphenyl)-2-({[(trichloroacetyl)amino]carbonyl}amino)thiophene-3-carboxylate.
To a stirred solution of 2-Amino-5-(4-methoxy-phenyl)-thiophene-3-carboxylic acid methyl ester (7.15 g, 27.2 mmol) in anhydrous THF (150 mL) was added trichloroacetyl isocyanate (6.4 mL, 54 mmol) slowly over a period of 5 min. After the addition was complete, a precipitate formed and the reaction stirred for an additional 1 h. The desired product was obtained by filtration to give 6.9 g (56%) an off-white solid. The product was used in the next step without purification 1H NMR (d6-DMSO δ 12.3, br s, 1H; δ 12.2, s, 1H; δ 7.46, d, 2H; δ 7.32, s, 1H; δ 6.85, d, 2H; δ 3.75, s, 3H; δ 3.66, s, 3H), LC/MS (APCI, ES, M+H=451).

reactant | 2-Amino-5-(4-methoxy-phenyl)-thiophene-3-carboxylic acid methyl ester | 27.2 mmol, 7.15 g | COC(=O)C1=C(SC(=C1)C1=CC=C(C=C1)OC)N | C13H13NO3S
reactant | trichloroacetyl isocyanate | 54 mmol, 6.4 mL | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | Methyl 5-(4-methoxyphenyl)-2-({[(trichloroacetyl)amino]carbonyl}amino)thiophene-3-carboxylate | COC1=CC=C(C=C1)C1=CC(=C(S1)NC(=O)NC(C(Cl)(Cl)Cl)=O)C(=O)OC | C16H13Cl3N2O5S
